US09029366B2
Di-tert-butyl azodicarboxylate (0.138 g, 0.6 mmol) was added to a stirred solution of triphenylphosphine (0.157 g, 0.6 mmol), (2-methylpyridin-4-yl)methanol (0.074 g, 0.6 mmol) and 5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-ol (0.157 g, 0.6 mmol) in THF (3 mL) in a sealed tube and under nitrogen. The mixture was stirred at 130° C. for 20 minutes under microwave irradiation and the solvents were evaporated in vacuo. The crude product was purified by flash column chromatography (silica; 7 M solution of ammonia in methanol in DCM 0/100 to 5/95, twice). The desired fractions were collected, the solvents evaporated in vacuo and the residue triturated with DIPE to yield 5-[(4-fluorophenyl)carbonyl]-2-[(2-methylpyridin-4-yl)methoxy]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine (0.078 g, 35% yield) as a white solid. C20H19FN4O2. 1H NMR (400 MHz, CDCl3) δ ppm 2.56 (s, 3 H), 4.08 (br. s., 4 H), 4.74 (br. s., 2 H), 5.17 (s, 2 H), 5.52 (br. s., 1 H), 7.10-7.18 (m, 3 H), 7.21 (br. s, 1 H), 7.45-7.52 (m, 2 H), 8.47 (d, J=5.1 Hz, 1 H).

reactant | Di-tert-butyl azodicarboxylate | 0.6 mmol, 0.138 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 0.6 mmol, 0.157 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-methylpyridin-4-yl)methanol | 0.6 mmol, 0.074 g | CC1=NC=CC(=C1)CO | C7H9NO
reactant | 5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-ol | 0.6 mmol, 0.157 g | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2)O | C13H12FN3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-[(4-fluorophenyl)carbonyl]-2-[(2-methylpyridin-4-yl)methoxy]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 0.078 g, 35% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2)OCC2=CC(=NC=C2)C | C20H19FN4O2
